US07018989B2
Phenyl N-methylalaninyl Phosphorochloridate
A solution of triethylamine (1 ml- 7.17 mmol) in 15 ml of dry CH2Cl2 was added dropwise to a mixture of phenyl phosphorodichloridate (757.4 mg, 3.59 mmol) and L-alanine methyl ester hydrochloride (500 mg, 3.58 mmol) in 50 ml of dry CH2Cl2 at −80° C. in one hour. The mixture was then stirred vigorously at −50° C. during five hours and CH2Cl2 evaporated. 25 ml of dry ether was added and precipitate filtered off under nitrogen. Evaporation of ether gave a colourless oil which was used without further purification for the next step.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenyl phosphorodichloridate | 3.59 mmol, 757.4 mg | P(OC1=CC=CC=C1)(=O)(Cl)Cl | C6H5Cl2O2P
reactant | L-alanine methyl ester hydrochloride | 3.58 mmol, 500 mg | Cl.COC([C@@H](N)C)=O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Phenyl N-methylalaninyl Phosphorochloridate | P(OC1=CC=CC=C1)(OC([C@@H](NC)C)=O)(=O)Cl | C10H13ClNO4P
